US06974812B2
(C) 5-(3,5-Dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-2-methyl-benzoic acid
2-(3-Carboxy-4-methyl-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid (110 gm) was added to 8 volumes of water with 2.4 equivalents of sodium hydroxide and 1.1 equivalents of mercaptoacetic acid. The reaction mixture was heated to reflux (100-105° C.) for approximately 18 hours at which point the reaction was complete by HPLC. 30% Sodium hydroxide and toluene were added and the resulting mixture was stirred. Upon settling a large interface was noted. More water, toluene and some ethyl acetate were added. The interface was minimized. The water layer was separated and treated with 2N HCl. At pH 2 solids precipitated out and the slurry was cooled to <10° C. The solids were filtered off in a slow filtration and dried in a vacuum oven to give 69 gm of the title compound.

reactant | 2-(3-Carboxy-4-methyl-phenyl)-3,5-dioxo-2,3,4,5-tetrahydro-[1,2,4]triazine-6-carboxylic acid | 110 gm | C(=O)(O)C=1C=C(C=CC1C)N1N=C(C(NC1=O)=O)C(=O)O | C12H9N3O6
reactant | sodium hydroxide | 2.4 equivalents | [OH-].[Na+]
reactant | mercaptoacetic acid | 1.1 equivalents | SCC(=O)O | C2H4O2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-(3,5-Dioxo-4,5-dihydro-3H-[1,2,4]triazin-2-yl)-2-methyl-benzoic acid | 69 gm | O=C1N(N=CC(N1)=O)C=1C=CC(=C(C(=O)O)C1)C | C11H9N3O4
